US06174874B1
2-{4-[3-(Benzyloxy)-2-{4-[Difluoro(Phosphono)Methyl]Benzyl}-2-(Methoxycarbonyl)-3-Oxopropyl]Phenyl}-2,2-Difluoroacetic Acid
To starting 1-benzyl 3-methyl 2-{4-[(di-tert-butoxyphosphoryl) (difluoro)methyl]benzyl}malonate (0.12 g) in DMF(5.0 mL) was added NaH (55 mg). The reaction was stirred at r.t. for 30 min. Then tert-butyl 2-[4-(bromomethyl)phenyl]-2,2-difluoroacetate(0.085 g, prepared according the procedures described by J. W. Tilley et al, J. Med. Chem. 1991, 34. 1125) was added to the mixture. After stirring for 2 h, the mixture was quenched with H2O and extracted with EtOAc (50 mL). The extract was dried over Na2SO4 and evaporated to dryness. The residue was treated with a solution of TFA/H2O (3 mL, 9:1) for 3 h at r.t. and evaporated to dryness. The crude was purified on reverse phase HPLC to give 12 mg of the title compound.

reactant | 1-benzyl 3-methyl 2-{4-[(di-tert-butoxyphosphoryl) (difluoro)methyl]benzyl}malonate | 0.12 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(C(=O)OCC2=CC=CC=C2)C(=O)OC)C=C1)(F)F | C27H35F2O7P
reactant | NaH | 55 mg | [H-].[Na+]
reactant | tert-butyl 2-[4-(bromomethyl)phenyl]-2,2-difluoroacetate | BrCC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(F)F | C13H15BrF2O2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 2-{4-[3-(Benzyloxy)-2-{4-[Difluoro(Phosphono)Methyl]Benzyl}-2-(Methoxycarbonyl)-3-Oxopropyl]Phenyl}-2,2-Difluoroacetic Acid | 12 mg | C(C1=CC=CC=C1)OC(C(CC1=CC=C(C=C1)C(C(=O)O)(F)F)(C(=O)OC)CC1=CC=C(C=C1)C(P(=O)(O)O)(F)F)=O | C28H25F4O9P
